US08084448B2
A. 2-Methanesulfonyloxybenzoic Acid Methyl Ester
To a solution of methyl salicylate (3.04 g, 20 mmol) in pyridine (25 mL) is added dropwise methanesulfonyl chloride (2.17 g, 19 mmol) and the mixture is stirred at RT for 18 h. The solvent is removed under reduced pressure and the residue partitioned between EtOAc and water. The organic phase is washed sequentially with 1N HCl, 2N Na2CO3, 1N HCl, water and brine then is dried over magnesium sulfate. The solvent is removed under reduced pressure and the residue purified by column chromatography using a gradient of 0-100% EtOAc/hexane as eluent to give the title compound as a solid.

reactant | methyl salicylate | 20 mmol, 3.04 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | methanesulfonyl chloride | 19 mmol, 2.17 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 2-Methanesulfonyloxybenzoic Acid Methyl Ester | COC(C1=C(C=CC=C1)OS(=O)(=O)C)=O | C9H10O5S
